US07166587B2
b) Benzyl-carbamic acid (S)-1-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl) -ethyl ester
Benzylisocyanate (13.3 mg, 0.1 mmol) was added to a solution of (S)-2-hydroxy-N-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-propionamide (30 mg, 0.1 mmol) in Toluol (1 ml) and heated to 100° C. for 1 week. The solvent was evaporated and the residue was dissolved in DMF (0.5 ml). The title compound, MS: m/e=444.4 (M+H+) (29 mg, 67%), was isolated from this mixture by automated, preparative HPLC (YMC CombiPrep C18 column 50×20 mm, solvent gradient 5–95% CH3CN in 0.1% TFA(aq) over 6.0 min, λ=230 nm, flow rate 30 ml/min).

reactant | Benzylisocyanate | 0.1 mmol, 13.3 mg | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | (S)-2-hydroxy-N-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-propionamide | 0.1 mmol, 30 mg | O[C@H](C(=O)NC1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2)C | C18H18N2O3
solvent | Toluol | 1 ml | C1(=CC=CC=C1)C | C7H8
product | Benzyl-carbamic acid (S)-1-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl) -ethyl ester | CN1C2=C(C3=C(C(C1=O)NC(=O)[C@H](C)OC(NCC1=CC=CC=C1)=O)C=CC=C3)C=CC=C2 | C26H25N3O4
